2147-04-24 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2147-4-23**] 03:08 PM
 INVASIVE VENTILATION - START [**2147-4-24**] 04:45 AM
   -patient had dobhoff placed after failed NGT x 2 for lactulose
   administration
   -renal with recommendation for fluid boluses, will consider dialysis if
   creatinine worsens.
   -Worsening respiratory status and mental status.  ABG 7.30/30/40.
   Anesthesia to bedside for uneventful intubation.  Started on propofol
   gtt.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-23**] 06:00 PM
   Vancomycin - [**2147-4-23**] 06:20 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-23**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2147-4-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 85 (80 - 105) bpm
   BP: 110/53(65) {110/53(65) - 148/89(97)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,480 mL
                                                                     36 mL
   PO:
             TF:
   IVF:
                                                                  1,260 mL
                                                                     36 mL
   Blood products:
                                                                  1,350 mL
   Total out:
                                                                     37 mL
                                                                    429 mL
   Urine:
                                                                     37 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,443 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.30/30/40/13/-9
   Ve: 12.8 L/min
   PaO2 / FiO2: 50
   Physical Examination
   General: Intubated and sedated; previously Arousable, follows commands
   and answers questions, jaundiced, A&O X 1
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: inspiratory rhonchi and expiratory wheezes diffusely and
   bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, tender to palpation in RUQ, LUQ, epigastric
   area, no rebound or guarding
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Labs / Radiology
   86 K/uL
   8.0 g/dL
   111 mg/dL
   5.2 mg/dL
   13 mEq/L
   4.4 mEq/L
   20 mg/dL
   116 mEq/L
   142 mEq/L
   23.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2147-4-23**]  02:45 PM
                             [**2147-4-23**]  07:20 PM
                             [**2147-4-23**]  11:47 PM
                             [**2147-4-23**]  11:54 PM
                             [**2147-4-24**]  03:07 AM
                             [**2147-4-24**]  04:22 AM
   WBC
   11.1
   13.3
   Hct
   22.0
   23.2
   Plt
   89
   86
   Cr
   5.4
   5.2
   5.2
   TCO2
   15
   15
   15
   Glucose
   115
   117
   111
   Other labs: PT / PTT / INR:29.3/64.3/2.9, ALT / AST:26/98, Alk Phos / T
   Bili:99/30.2, Lactic Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:184 IU/L,
   Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure consistent with
   hepatic encephalopathy.
   .
   1. Respiratory Failure
 patient noted to have worsening hypoxemia
   overnight and necessitated intubation and mechanical ventilation.
   Likely component due to volume overload (very little UOP and positive
   fluid balance of 3 L yesterday).
   - continue AC settings and obtain ABG (likely will benefit from A-line)
   - Trend ABG
   - attempt  PSV when tolerated.
   .
   2. Mental Status Changes: Differential includes hepatic encephalopathy,
   medication effect from ativan or active infection. Fulminant hepatic
   failure is possible given her history of alcoholism, acute liver
   failure and now encephalopathy.  Per liver team, prognosis is poor
   given the trend in her LFTs and coags.
   - monitor in ICU for airway protection and oxygenation
   - continue lactulose, midodrine, octreotide, rifaximin
   - serial labs to monitor coags and LFTs
   - broad spectrum abx Vanc/Ceftriaxone for possible infectious etiology
   - f/u blood cultures, urine cultures
   - consider tap of abdomen under U/S if tappable pocket
   - hold on steriods given possible infection
   - dobhoff in place for medications given inability to swallow
   .
   3. Liver Failure: INR is 2.9 after 2 units FFP and 10mg PO vitamin K
   yesterday.  Bilirubin continues to rise.
   - f/u hepatitis serologies, [**Doctor First Name **], anti-smooth muscle antibody. MELD
   score is 45 based upon lab data from [**2147-4-24**] lab data.
   - will hold on further FFP unless she shows evidence of active bleed
   - continue vitamin K (PO 10 mg daily x 3 days
 today is day #2)
   - monitor liver labs [**Hospital1 **]
   - Consider US-guided paracentesis
   .
   4. Acute Renal Failure: Likely hepatorenal syndrome.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time.
   - f/u renal consult recommendations
   - albumin 100mg qday x 3 days (day [**2-15**]) - midodrine 12.5mg PO TID,
   octreotide 200SC q8H
   - per family, would want dialysis if it would give her more time for a
   chance of liver recovery
   - Check with [**Hospital6 707**] re: any recent dye/contrast
   .
   5. Anemia: No history of GI bleeding. Unknown whether this patient has
   esophageal or gastric varices.  She currently is menstruating (stopped
   today) but bleeding is minimal.
   - monitor for signs of bleeding, including guaiac all stools
   - transfuse 1 unit pRBCs this morning, obtain post-transfusion HCT;
   transfusion for HCT < 24
   - FFP/DDAVP if any evidence of active bleeding
   - vitamin K 10mg PO x 3 days (Day [**2-15**])
   .
   6. HTN: currently normotensive
   - continue to hold Atenolol, monitor blood pressure
   .
   # FEN: IVF boluses, replete electrolytes, NPO pending clinical
   resolution
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-25 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2147-4-24**] 08:42 PM
   - Renal recs [**4-24**]: likely ATN (less likely prerenal/HRS); agree
   w/albumin; give Na bicarb as needed for metabolic acidosis; dose vanc
   by levels.  [**4-25**]: will re-eval later today for likely HD.
   - Temp HD line (and ?A-line) to be placed by IR [**4-25**] with FFP prior
   (goal INR = 1.5). Call IR at 7:15am for schedule and confirm FFP
   dosing.
   - Liver recs: treat fungal UTI; start prednisone 40 mg (day 1 = [**4-24**]);
   encourage nutrition (low-dose tube feeds); vitamin K X 3 days; albumin
   2X50g/day, octreotide/midodrine NOT necessary.
   - Per ID abx approval fellow, holding off on micafungin/fluconazole for
   now given yeast in urine likely contaminant; will repeat U/A and cx.
   If we do decide to treat her UTI, fluconazole has better GU penetration
   than micafungin and neither has been shown to be less hepatotoxic than
   the other.
   - Poor UOP throughout day
   - Unable to place A-line - aborted further attempts given high INR and
   risk of hematoma(patient received only 1 unit FFP prior to procedure).
   - Octreotide/midodrine stopped.
   - Pt given bicarb; got albumin at 8m and [**4-25**] 4am for SBP to 80s.
   - Received 1 unit pRBC at 10am
   - Started on prednisone for acute alcoholic hepatitis (discriminant
   function 137!).
   - Fibrinogen 68
 got 1 unit cryo at 7am
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-23**] 06:20 PM
   Ceftriaxone - [**2147-4-24**] 06:03 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2147-4-24**] 05:04 PM
   Pantoprazole (Protonix) - [**2147-4-24**] 08:33 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2147-4-24**] 08:34 PM
   Propofol - [**2147-4-25**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No additions
   Flowsheet Data as of  [**2147-4-25**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 72 (64 - 87) bpm
   BP: 103/50(63) {88/34(47) - 127/62(76)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.7 kg (admission): 101.5 kg
           Total In:
                                                                  1,666 mL
                                                                    490 mL
   PO:
           TF:
   IVF:
                                                                    458 mL
                                                                    178 mL
   Blood products:
                                                                    768 mL
                                                                    312 mL
   Total out:
                                                                  1,011 mL
                                                                    565 mL
   Urine:
                                                                    111 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    655 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 14 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/29/76.[**Numeric Identifier 433**]/15/-10
   Mixed venous gas: 7.26/36/49
   Ve: 12.7 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General: Intubated and sedated; jaundiced, not arousable to voice or
   noxious stimuli
   HEENT: Significant scleral icterus, MM dry, small amt dry blood on lips
   Lungs: inspiratory rhonchi and expiratory wheezes diffusely and
   bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, nontender to palpation, no rebound or
   guarding
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Labs / Radiology
   69 K/uL
   9.0 g/dL
   114 mg/dL
   6.2 mg/dL
   15 mEq/L
   4.9 mEq/L
   26 mg/dL
   117 mEq/L
   140 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2147-4-23**]  02:45 PM
                             [**2147-4-23**]  07:20 PM
                             [**2147-4-23**]  11:47 PM
                             [**2147-4-23**]  11:54 PM
                             [**2147-4-24**]  03:07 AM
                             [**2147-4-24**]  04:22 AM
                             [**2147-4-24**]  09:39 AM
                             [**2147-4-24**]  01:16 PM
                             [**2147-4-24**]  05:43 PM
                             [**2147-4-25**]  03:14 AM
   WBC
   11.1
   13.3
   13.4
   Hct
   22.0
   23.2
   25.4
   26.0
   Plt
   89
   86
   69
   Cr
   5.4
   5.2
   5.2
   6.2
   TCO2
   15
   15
   15
   15
   Glucose
   115
   117
   111
   98
   114
   Other labs: PT / PTT / INR:32.8/63.0/3.3, ALT / AST:23/89, Alk Phos / T
   Bili:91/24.3 down from max 31.9 on [**4-22**], Fibrinogen:68.3 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:252 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:6.7 mg/dL
   FDP
 pending
   Hep panel
 negative HbSag, HbSAb borderline positive; negative HbCAb,
   HAV Ab positive but IgM negative; AFP 2.4; IgG 1887; HCV Ab negative;
   HIV Ab negative
   [**4-24**] UA: cloudy amber 1.013, lg blood, neg nitr, 150 prot, mod bili, sm
   leuk, [**12-2**] R, 21-50 W, few bact, many yeast, [**3-17**] epi
   LOS fluid balance
 4L up
   [**4-24**] CXR Severe volume overload. ETT 1 cm from carina. DHT at GEJ. Dr.
   [**Last Name (STitle) 242**] was notified on [**2147-4-24**] at 10 a.m.
   [**4-25**] CXR pending
   [**4-24**] urine cx
 pending ([**4-21**] cx with yeast)
   [**4-22**] blood cx X2 - pending
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure consistent with
   hepatic encephalopathy.
   .
   1. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status.
   - A-line attempted to be placed yesterday for ABGs; unsuccessful and
   will ask IR to place line today while getting HD line
   - Trend ABG
   - attempt PSV when tolerated
   - HD likely today to remove volume will likely improve respiratory
   status
   .
   2. Hypotension:
   - continue to hold Atenolol, monitor blood pressure and give blood
   products as needed
   - hypotension likely will improve with HD as volume overload is treated
   - consider radial a line today
   - start levophed as necessary for MAP >55
   - 100grams albumin today
   .
   3. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is possible given her history of
   alcoholism, acute liver failure and now encephalopathy.  Per liver
   team, prognosis is poor given the trend in her LFTs and coags.
   - monitor in ICU for airway protection and oxygenation
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - serial labs to monitor coags and LFTs
   - broad spectrum abx for possible infectious etiology  (vanco day 1 =
   [**4-23**], dose by levels; ceftriaxone day 1 = [**4-23**])
   - f/u blood cultures, urine cultures (see below)
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   - Dophoff tube migrated, will need to replace or place OG tube for
   nutrition/meds
   .
   4. Liver Failure: INR is 3.6 after 1 unit FFP and 10mg PO vitamin K
   yesterday.  Bilirubin now trending down.
   - f/u hepatitis serologies, [**Doctor First Name **], anti-smooth muscle antibody. MELD
   score is 45 based upon lab data from [**2147-4-24**] lab data.
   - continue vitamin K (PO 10 mg daily x 3 days
 [**4-25**] is day #3)
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - Consider US-guided paracentesis
   .
   5. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast
   - Appreciate renal consult recommendations
   - albumin 100mg qday x 3 days (received alb on [**3-8**] PM, [**4-25**] AM)
   - per family, would want dialysis if it would give her more time for a
   chance of liver recovery. Plan for dialysis today. For access we are
   coordinating with IR and renal, will need FFP to reverse coagulopathy
   prior to placement.
   .
   6. Anemia: No history of GI bleeding. Unknown whether this patient has
   esophageal or gastric varices.  She currently is menstruating (stopped
   yesterday) but bleeding is minimal.
   - monitor for signs of bleeding, including guaiac all stools
   - transfused 1 unit pRBCs yesterday with appropriate increase in Hct;
   transfuse for HCT < 24
   - FFP/DDAVP if any evidence of active bleeding
   - vitamin K 10mg PO x 3 days (Day [**3-15**] is [**4-25**])
   .
   7. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Replace foley with treatment.
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, NPO pending clinical resolution
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-25 09:07:00 Physician Attending Progress Note
Chief Complaint: liver failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with ETOH hepatitis, renal failure.  Started on steroids
   and to get HD catheter today
   for CVVH.
   24 Hour Events:
 URINE CULTURE - At [**2147-4-24**] 08:42 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-23**] 06:20 PM
   Ceftriaxone - [**2147-4-24**] 06:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-4-24**] 05:04 PM
   Pantoprazole (Protonix) - [**2147-4-24**] 08:33 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2147-4-24**] 08:34 PM
   Propofol - [**2147-4-25**] 04:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-25**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (64 - 87) bpm
   BP: 97/43(56) {88/34(47) - 127/62(76)} mmHg
   RR: 24 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.7 kg (admission): 101.5 kg
           Total In:
                                                                  1,666 mL
                                                                    528 mL
   PO:
           TF:
   IVF:
                                                                    458 mL
                                                                    199 mL
   Blood products:
                                                                    768 mL
                                                                    329 mL
   Total out:
                                                                  1,011 mL
                                                                    565 mL
   Urine:
                                                                    111 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                    655 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/29/76.[**Numeric Identifier 433**]/15/-10
   Ve: 13.3 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   69 K/uL
   114 mg/dL
   6.2 mg/dL
   15 mEq/L
   4.9 mEq/L
   26 mg/dL
   117 mEq/L
   140 mEq/L
   26.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2147-4-23**]  02:45 PM
                             [**2147-4-23**]  07:20 PM
                             [**2147-4-23**]  11:47 PM
                             [**2147-4-23**]  11:54 PM
                             [**2147-4-24**]  03:07 AM
                             [**2147-4-24**]  04:22 AM
                             [**2147-4-24**]  09:39 AM
                             [**2147-4-24**]  01:16 PM
                             [**2147-4-24**]  05:43 PM
                             [**2147-4-25**]  03:14 AM
   WBC
   11.1
   13.3
   13.4
   Hct
   22.0
   23.2
   25.4
   26.0
   Plt
   89
   86
   69
   Cr
   5.4
   5.2
   5.2
   6.2
   TCO2
   15
   15
   15
   15
   Glucose
   115
   117
   111
   98
   114
   Other labs: PT / PTT / INR:32.8/63.0/3.3, ALT / AST:23/89, Alk Phos / T
   Bili:91/24.3, Fibrinogen:68.3 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.6 g/dL, LDH:252 IU/L, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:6.7
   mg/dL
   Assessment and Plan
   Respiratory failure:  worsening hypoxemia.  Likely due to fluid
   overload.  To get HD catheter to start CVVH today.
   renal failure:  poor urine output.
   liver failure, encephalopathy:  on ceftriaxone for prophylaxis.
   Continue. prednisone, lactulose, rifaxamin.
   U/A with yeast:  will treat with fluconazole
   anemia:  monitor for signs of bleeding.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2147-04-26 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2147-4-25**] 03:32 PM
 DIALYSIS CATHETER - START [**2147-4-25**] 08:39 PM
 EKG - At [**2147-4-25**] 11:26 PM
   - A line placed
   - OG placed attempted x3 but unclear that below diaphragm, plan to
   re-attempt in AM, started lactulose PR in the meantime.
   - Temporary HD catheter placed (3 units FFP before), CVVH started
   up-titrated to net negative 200-250cc/hr and initially BP tolerating w/
   MAP in 60s but then decreased to 50s, so backed off fluid to 100cc/hr
   and started levophed to maintain MAP >60.
   - Episode of bradycardia to 30s after started levophed. EKG shows
   change from sinus to ectopic atrial rhythm with rate in 50s. Levophed
   stopped then re-started without incident.
   - Able to wean FiO2 from 80% to 50%, tried to wean PEEP but respiratory
   rate increased so maintained at 18 overnight.
   - F/U to see that foley was changed in AM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-23**] 06:20 PM
   Ceftriaxone - [**2147-4-25**] 09:30 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-25**] 09:31 PM
   Other medications:
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2147-4-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 68 (48 - 73) bpm
   BP: 107/55(69) {86/46(-26) - 114/68(82)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 101.6 kg (admission): 101.5 kg
             Total In:
                                                                  3,890 mL
                                                                  2,122 mL
   PO:
             TF:
   IVF:
                                                                  2,341 mL
                                                                  2,122 mL
   Blood products:
                                                                  1,459 mL
   Total out:
                                                                  3,794 mL
                                                                  3,201 mL
   Urine:
                                                                     88 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                     96 mL
                                                                 -1,079 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.38/35/116/21/-3
   Ve: 9.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: Intubated and sedated; jaundiced, not arousable to voice;
   withdraws to painful stimuli.
   HEENT: Significant scleral icterus, MM dry, small amt dry blood on lips
   Lungs: inspiratory rhonchi and expiratory wheezes diffusely and
   bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, nontender to palpation, no rebound or
   guarding
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Labs / Radiology
   67 K/uL
   8.2 g/dL
   153 mg/dL
   4.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   24 mg/dL
   105 mEq/L
   142 mEq/L
   23.5 %
   17.2 K/uL
        [image002.jpg]
                             [**2147-4-24**]  05:43 PM
                             [**2147-4-25**]  03:14 AM
                             [**2147-4-25**]  03:39 PM
                             [**2147-4-25**]  03:55 PM
                             [**2147-4-25**]  08:43 PM
                             [**2147-4-25**]  08:56 PM
                             [**2147-4-25**]  11:32 PM
                             [**2147-4-25**]  11:46 PM
                             [**2147-4-26**]  03:14 AM
                             [**2147-4-26**]  03:38 AM
   WBC
   13.4
   15.5
   17.2
   Hct
   26.0
   24.7
   24.3
   23.5
   Plt
   69
   75
   67
   Cr
   6.2
   6.9
   6.3
   4.8
   TropT
   <0.01
   TCO2
   15
   17
   18
   20
   22
   Glucose
   114
   129
   126
   147
   153
   Other labs: PT / PTT / INR:28.2/45.8/2.8, CK / CKMB /
   Troponin-T:50//<0.01, ALT / AST:23/69, Alk Phos / T Bili:91/19.0,
   Fibrinogen:117 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:252
   IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure consistent with
   hepatic encephalopathy.
   .
   1. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status.
   - A-line placed for ABGs- Trend ABG
   - attempt PSV when tolerated
   - continued CVVH  today to remove volume will likely improve
   respiratory status
   .
   2. Hypotension:
   - continue to hold Atenolol, monitor blood pressure and give blood
   products as needed
   - hypotension likely will improve with HD as volume overload is treated
   - continue levophed for MAP >55; wean as tolerated
   .
   3. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is possible given her history of
   alcoholism, acute liver failure and now encephalopathy.  Per liver
   team, prognosis is poor given the trend in her LFTs and coags.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - serial labs to monitor coags and LFTs
   - broad spectrum abx for possible infectious etiology  (vanco day 1 =
   [**4-23**], dose by HD protocol; ceftriaxone day 1 = [**4-23**])
   - f/u blood cultures, urine cultures (see below)
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   - Dophoff tube migrated, will need to replace or place OG tube for
   nutrition/meds
   .
   4. Liver Failure: INR is improved to 2.8 this morning after 3 units of
   FFP yesterday.  Bilirubin now trending down.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score is 45 based upon lab data from [**2147-4-24**]
   lab data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - Consider US-guided paracentesis
   .
   5. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast
   - Appreciate renal consult recommendations
   - patient with HD catheter placed by renal service yesterday, now on
   CVVH.
   - Continue CVVH as tolerated.
   .
   6. Anemia: No history of GI bleeding. Unknown whether this patient has
   esophageal or gastric varices.  She currently is menstruating (stopped
   yesterday) but bleeding is minimal.
   - monitor for signs of bleeding, including guaiac all stools
   - Transfuse 1 unit of pRBCs today given hypotension and pressor
   requirement; transfusion goal HCT > 24.
   - FFP/DDAVP if any evidence of active bleeding
   - vitamin K 10mg PO x 3 days (Day [**3-15**] is [**4-25**])
   .
   7. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.
   - Replace foley with treatment.
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, NPO pending clinical resolution
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Arterial Line - [**2147-4-25**] 03:32 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-27 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-4-26**] 03:56 PM
 ARTERIAL LINE - START [**2147-4-26**] 05:00 PM
   [**2147-4-26**]
   - A line replaced after pulled from artery during movement of patient.
   - Dobhoff placed.
   - patient continues on CVVH, slowly decreasing PEEP now at 12.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-26**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-27**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 64 (57 - 72) bpm
   BP: 109/53(66) {92/52(65) - 131/86(330)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 99.6 kg (admission): 101.5 kg
             Total In:
                                                                  6,976 mL
                                                                    877 mL
   PO:
             TF:
                                                                    164 mL
                                                                    172 mL
   IVF:
                                                                  6,702 mL
                                                                    655 mL
   Blood products:
   Total out:
                                                                  9,062 mL
                                                                  1,247 mL
   Urine:
                                                                     11 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                 -2,086 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.41/44/91.[**Numeric Identifier **]/23/2
   Ve: 9 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General: Intubated and sedated; jaundiced, not arousable to voice;
   withdraws to painful stimuli.
   HEENT: Significant scleral icterus, MM dry, small amt dry blood on lips
   Lungs: inspiratory rhonchi and expiratory wheezes diffusely and
   bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, nontender to palpation, no rebound or
   guarding
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Labs / Radiology
   85 K/uL
   8.7 g/dL
   138 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   103 mEq/L
   138 mEq/L
   25.3 %
   23.1 K/uL
        [image002.jpg]
                             [**2147-4-25**]  11:32 PM
                             [**2147-4-25**]  11:46 PM
                             [**2147-4-26**]  03:14 AM
                             [**2147-4-26**]  03:38 AM
                             [**2147-4-26**]  09:15 AM
                             [**2147-4-26**]  09:32 AM
                             [**2147-4-26**]  04:12 PM
                             [**2147-4-26**]  08:30 PM
                             [**2147-4-27**]  02:33 AM
                             [**2147-4-27**]  02:49 AM
   WBC
   17.2
   23.1
   Hct
   23.5
   25.0
   25.1
   25.3
   Plt
   67
   84
   85
   Cr
   4.8
   4.7
   3.5
   2.4
   TropT
   <0.01
   <0.01
   TCO2
   20
   22
   23
   25
   29
   Glucose
   153
   149
   144
   135
   126
   138
   Other labs:
   PT / PTT / INR:28.8/55.7/2.8,
   ALT / AST:35/98, Alk Phos / T Bili:106/16.6,
   Fibrinogen:106 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:197
   IU/L,
    Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Micro:
   BCx
 NGTD
   UCx [**4-24**]
 yeast > 100,000
   CXR [**2147-4-27**]: Read pending
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure consistent with
   hepatic encephalopathy.
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status. Currently weaning PEEP (now at 12);
   last ABG within normal limits.
   - Trend ABGs (A-line in place)
   - Attempt PSV when tolerated; decrease PEEP as tolerated (will attempt
   to get PEEP under 10, check RSBI)
   - Continued CVVH today to remove volume will likely improve respiratory
   status
   .
   #. Hypotension:
   - continue to hold Atenolol, monitor blood pressure and give blood
   products as needed
   - continue levophed for MAP >60; wean as tolerated
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is possible given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - discontinue propofol today and monitor mental status (restart if
   patient appears uncomfortable)
   - serial labs to monitor coags and LFTs
   - broad spectrum abx for possible infectious etiology  (vanco day 1 =
   [**4-23**], dose by HD protocol; ceftriaxone day 1 = [**4-23**]); will discontinue
   today [**4-27**] given no clear infectious source and elevated WBC likely
   secondary to steroids
   - monitor for infection and culture if spikes; add on differential to
   morning labs
   - f/u blood cultures, urine cultures (see below)
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis. INR is
   improved to 2.8 this morning after 3 units of FFP [**4-25**].  Bilirubin now
   trending down.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs
   - Consider US-guided paracentesis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**5-1**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated
   .
   #. Anemia: No history of GI bleeding. Unknown whether this patient has
   esophageal or gastric varices.  She currently is menstruating (stopped
   yesterday) but bleeding is minimal.
   - monitor for signs of bleeding, including guaiac all stools
   - Transfuse for goal HCT > 24.
   - FFP/DDAVP if any evidence of active bleeding
   - vitamin K 10mg PO x 3 days (Day [**3-15**] is [**4-25**])
   .
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.
   - Repeat culture [**4-24**] also with yeast
   - Repeat UA and culture; if yeast persist, continue tx with fluconazole
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2147-4-26**] 03:10 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-27 12:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, ETOH hepatitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with ETOH hepatits, renal failure, respiratory failure.
   Improving oxygenation with CVVH.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-4-26**] 03:56 PM
 ARTERIAL LINE - START [**2147-4-26**] 05:00 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-27**] 10:03 AM
   Other medications:
   CRRT electrolytes
   rifaxamin
   MVI
   folate
   thiamine
   lactulose
   protonix
   chlorhexidine
   prednisone 40mg
   SSI
   fluconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-27**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 68 (60 - 72) bpm
   BP: 107/53(68) {92/47(60) - 131/86(330)} mmHg
   RR: 21 (19 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.6 kg (admission): 101.5 kg
             Total In:
                                                                  6,976 mL
                                                                  1,780 mL
   PO:
             TF:
                                                                    164 mL
                                                                    307 mL
   IVF:
                                                                  6,702 mL
                                                                  1,303 mL
   Blood products:
   Total out:
                                                                  9,062 mL
                                                                  2,262 mL
   Urine:
                                                                     11 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                 -2,086 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.43/40/75/23/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   85 K/uL
   125 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   17 mg/dL
   103 mEq/L
   138 mEq/L
   25.3 %
   23.1 K/uL
        [image002.jpg]
                             [**2147-4-25**]  11:46 PM
                             [**2147-4-26**]  03:14 AM
                             [**2147-4-26**]  03:38 AM
                             [**2147-4-26**]  09:15 AM
                             [**2147-4-26**]  09:32 AM
                             [**2147-4-26**]  04:12 PM
                             [**2147-4-26**]  08:30 PM
                             [**2147-4-27**]  02:33 AM
                             [**2147-4-27**]  02:49 AM
                             [**2147-4-27**]  08:18 AM
   WBC
   17.2
   23.1
   Hct
   23.5
   25.0
   25.1
   25.3
   Plt
   67
   84
   85
   Cr
   4.8
   4.7
   3.5
   2.4
   TropT
   <0.01
   TCO2
   20
   22
   23
   25
   29
   27
   Glucose
   153
   149
   144
   135
   126
   138
   125
   Other labs: PT / PTT / INR:28.8/55.7/2.8, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:35/98, Alk Phos / T Bili:106/16.6,
   Fibrinogen:106 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:197
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   ETOH hepatitis:  evidence of liver improvement.  Continue lactulose,
   prednisone
   Respiratory failure: contine to wean PEEP.
   HOTN:  continue low dose of pressor for CVVH.
   MS/encephalopathy:  will stop propofol, and continue lactulose
   UTI:  will stop all antibiotics, except for fluconazole.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2147-4-27**] 09:27 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2147-04-28 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Decreased PEEP over course of day
   - No overnight events
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-27**] 08:17 PM
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2147-4-28**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.4
C (95.7
   HR: 67 (63 - 88) bpm
   BP: 105/50(67) {90/43(58) - 131/83(104)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 101.5 kg
           Total In:
                                                                  3,387 mL
                                                                  1,021 mL
   PO:
           TF:
                                                                    600 mL
                                                                    174 mL
   IVF:
                                                                  2,617 mL
                                                                    761 mL
   Blood products:
   86 mL
   Total out:
                                                                  6,274 mL
                                                                  1,248 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,887 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/39/72/26/5
   Ve: 12.3 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General: Intubated and sedated; jaundiced, not arousable to voice;
   withdraws to painful stimuli.
   HEENT: Significant scleral icterus, MM dry, small amt dry blood on lips
   Lungs: inspiratory rhonchi and expiratory wheezes diffusely and
   bilaterally
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, nontender to palpation, no rebound or
   guarding
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Labs / Radiology
   50 K/uL
   8.1 g/dL
   123 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.2 mEq/L
   21 mg/dL
   99 mEq/L
   134 mEq/L
   23.4 %
   20.8 K/uL
        [image002.jpg]
                             [**2147-4-26**]  04:12 PM
                             [**2147-4-26**]  08:30 PM
                             [**2147-4-27**]  02:33 AM
                             [**2147-4-27**]  02:49 AM
                             [**2147-4-27**]  08:18 AM
                             [**2147-4-27**]  02:01 PM
                             [**2147-4-27**]  02:13 PM
                             [**2147-4-27**]  09:18 PM
                             [**2147-4-28**]  02:59 AM
                             [**2147-4-28**]  03:25 AM
   WBC
   23.1
   20.8
   Hct
   25.1
   25.3
   23.4
   Plt
   84
   85
   50
   Cr
   3.5
   2.4
   2.4
   2.0
   TropT
   <0.01
   TCO2
   25
   29
   27
   29
   27
   30
   Glucose
   144
   135
   126
   138
   125
   136
   131
   117
   129
   123
   Other labs: PT / PTT / INR:33.2/107.5/3.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:53/125, Alk Phos / T Bili:193/17.7,
   Differential-Neuts:93.6 %, Lymph:3.7 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:106 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:240
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure, consistent with
   hepatic encephalopathy.
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status. Currently weaning PEEP (now at 10);
   last ABG within normal limits.
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Attempt PSV when tolerated; decrease PEEP as tolerated (will attempt
   to get PEEP under 10, check RSBI)
   .
   #. Hypotension:
   - continue to hold Atenolol, monitor blood pressure and give blood
   products as needed
   - continue levophed for MAP >60; wean as tolerated
   - consider possible infection/sepsis given difficulty weaning off
   levophed on CVVH and leukocytosis (though may be secondary to steroids
   as it is temporally related); will obtain blood cultures
   .
   # Thrombocytopenia
 platelets decreased this morning and fibrinogen
   less than detectable and markedly elevated fibrin degradation products.
   Likely represents DIC though difficult to differentiate from alcoholic
   hepatitis while on CVVH.
   - Received cryoprecipitate X2 this morning [**4-28**].
   - Monitor DIC labs [**Hospital1 **]; goal fibrinogen > 100
   - Obtain blood smear
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely)
   - serial labs to monitor coags and LFTs
   - All antibiotics discontinued [**4-27**] given no clear infectious source
   (vanco day 1 = [**4-23**], dose by HD protocol; ceftriaxone day 1 = [**4-23**])
   - monitor for infection and culture if spikes
   - f/u blood cultures, urine cultures
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis. INR is
   worsening to 3.4 this morning. Bilirubin slightly increased.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets downtrending
   - Consider US-guided paracentesis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**5-1**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated, goal TBB today [**4-28**]
   .
   #. Anemia: No history of GI bleeding. Unknown whether this patient has
   esophageal or gastric varices.  She currently is menstruating (stopped
   yesterday) but bleeding is minimal.
   - monitor for signs of bleeding, including guaiac all stools
   - Transfuse for goal HCT > 24; will get one unit pRBCs this morning
   - FFP/DDAVP if any evidence of active bleeding
   - received vitamin K 10mg PO x 3 days (Day [**3-15**] is [**4-25**])
   .
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.
   - Repeat culture [**4-24**] also with yeast
   - Repeat UA and culture; if yeast persist, continue tx with fluconazole
   for 5 day course started [**4-25**]
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2147-4-28**] 12:08 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-28 13:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with ETOH hepatitis, acute renal failure
   24 Hour Events:
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-27**] 08:17 PM
   Other medications:
   CRRT
   fluconazole
   SSI
   prednisone 40mg
   chlorhexidine
   protonix
   MVI
   folate
   thiamine
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-28**] 01:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.5
   HR: 81 (65 - 89) bpm
   BP: 107/58(73) {90/43(57) - 132/83(104)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 101.5 kg
           Total In:
                                                                  3,387 mL
                                                                  2,341 mL
   PO:
           TF:
                                                                    600 mL
                                                                    318 mL
   IVF:
                                                                  2,617 mL
                                                                  1,692 mL
   Blood products:
   271 mL
   Total out:
                                                                  6,274 mL
                                                                  2,724 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,887 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/33/82.[**Numeric Identifier **]/26/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, moving
   all extremities
   Labs / Radiology
   8.1 g/dL
   50 K/uL
   124 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.3 mEq/L
   21 mg/dL
   99 mEq/L
   134 mEq/L
   23.4 %
   20.8 K/uL
        [image002.jpg]
                             [**2147-4-26**]  08:30 PM
                             [**2147-4-27**]  02:33 AM
                             [**2147-4-27**]  02:49 AM
                             [**2147-4-27**]  08:18 AM
                             [**2147-4-27**]  02:01 PM
                             [**2147-4-27**]  02:13 PM
                             [**2147-4-27**]  09:18 PM
                             [**2147-4-28**]  02:59 AM
                             [**2147-4-28**]  03:25 AM
                             [**2147-4-28**]  09:48 AM
   WBC
   23.1
   20.8
   Hct
   25.3
   23.4
   Plt
   85
   50
   Cr
   2.4
   2.4
   2.0
   TCO2
   25
   29
   27
   29
   27
   30
   25
   Glucose
   135
   126
   138
   125
   136
   131
   117
   129
   123
   124
   Other labs: PT / PTT / INR:33.2/107.5/3.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:53/125, Alk Phos / T Bili:193/17.7,
   Differential-Neuts:93.6 %, Lymph:3.7 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:106 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:240
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  will switch over to PSV and continue to wean
   PEEP.
   HOTN:  Continue levophed as needed.  Unclear if she has a new
   infection.  Can check  blood cx given she is on steroids.
   Cirrhosis: bili continues to improve.
   MS:  improved from yesterday - now moving all extremities.  Continue to
   hold sedation.
   CVVH:  BP slightly lower today - will run even.
   Anemia:  will transfuse 1U PRBC today.
   UTI:  on 5 day course of fluconazole
   encephalopathy:  continue lactulose
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2147-4-28**] 12:08 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2147-04-29 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2147-4-28**] 01:32 PM
   specs from HD cath and PICC sent
 URINE CULTURE - At [**2147-4-28**] 04:19 PM
   - During the day had stable levophed requirement, sedation taken off
   and patient more alert MAE but not following commands. Fibrinogen <100,
   high FDP (no schistocytes) do to either DIC/severe liver disease got 1u
   cryoprecip and 1u pRBC for HCT<24
   - Overnight HCT drop to 14, stable levophed requirement but heart rate
   increased to the 110s, no obvious source of bleeding. Getting 2u PRBC,
   2uFFP, 2uCryoprecip, 0.3mcg/kg DDAVP. Checking hemolysis labs. Ordered
   for CT abdomen/pelvis.
   - WBC count increased to 33. Sent stool C. Diff. Bedside abdominal U/S
   without accessible ascites to tap. Started vanc, zosyn, flagyl.
   - ET tube advanced
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-28**] 08:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-29**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 116 (77 - 122) bpm
   BP: 100/57(72) {83/44(57) - 132/73(90)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 101.5 kg
           Total In:
                                                                  4,722 mL
                                                                  1,367 mL
   PO:
           TF:
                                                                    577 mL
                                                                    163 mL
   IVF:
                                                                  3,152 mL
                                                                    694 mL
   Blood products:
                                                                    872 mL
                                                                    449 mL
   Total out:
                                                                  4,704 mL
                                                                  1,127 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 578 (578 - 607) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 139
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.44/33/154/19/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General: intubated, jaundice, opens eyes spontaneously tracking but not
   following commands
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, no facial grimace to palpation
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Neuro: pupils 5 to 3 with light, intermittently moves both upper
   extremities spontaneously but not to command
   Labs / Radiology
   63 K/uL
   4.7 g/dL
   171 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   135 mEq/L
   13.5 %
   32.2 K/uL
        [image002.jpg]
                             [**2147-4-28**]  02:59 AM
                             [**2147-4-28**]  03:25 AM
                             [**2147-4-28**]  09:48 AM
                             [**2147-4-28**]  03:04 PM
                             [**2147-4-28**]  03:39 PM
                             [**2147-4-28**]  05:03 PM
                             [**2147-4-28**]  10:24 PM
                             [**2147-4-29**]  03:43 AM
                             [**2147-4-29**]  04:00 AM
                             [**2147-4-29**]  04:47 AM
   WBC
   20.8
   34.7
   32.2
   Hct
   23.4
   13.9
   13.5
   Plt
   50
   66
   63
   63
   Cr
   2.0
   1.9
   1.2
   TCO2
   30
   25
   25
   25
   20
   23
   Glucose
   129
   123
   124
   184
   188
   171
   Other labs: PT / PTT / INR:29.5/67.8/2.9,
   ALT / AST:73 (53)/132 (125), Alk Phos / T Bili:192/18 (17.7),
   Albumin:3.3 g/dL, LDH:256 IU/L,
   Differential-Neuts:93.6 %, Lymph:3.7 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:79 mg/dL, FDP: [**Telephone/Fax (1) 7665**],   Lactic Acid:3.4 mmol/L
    Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:1.0 mg/dL
   Urine CX ([**4-28**]): pending (previous growing yeast >100K)
   Blood CX: NGTD
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure, consistent with
   hepatic encephalopathy.
   .
   #Hypotension:  Patient afebrile but with worsening difficulty weaning
   off levophed, leukocytosis, DIC concerning for sepsis.  Potential
   sources of infection include respiratory although stable on ventilator,
   C. Diff associated disease, SBP.
   -blood cultures
   -urine culture
   - trend lactate
   - CT abd/pelvis with IV contrast today
   - levophed to goal MAP >65  and wean as tolerated
   - broad spectrum antibiotics
 vancomycin, zosyn, and flagyl day 1
   [**2147-4-29**]
   - hold atenolol
   - can transduce CVP if PICC is a power PICC
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status. Currently weaning PEEP (now at 10);
   last ABG within normal limits.
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Attempt PSV when tolerated; decrease PEEP as tolerated (will attempt
   to get PEEP under 10, check RSBI)
   - propofol sedation for patient comfort
   .
   # Thrombocytopenia/DIC
   low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. This morning getting 2
   units FFP, 2 units cryoprecipitate due to concern for active bleed with
   significant Hematocrit drop.
   -[**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   -DDAVP dosed at 0.3mcg/kg
   - antibiotics for sepsis
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices.  Recently menstruating but bleeding
   minimal.  No obvious source of bleeding clinically.  Currently getting
   6  units for HCT of 14
   -serial HCT Q6hr
   -transfuse for HCT <24
   - guaiac stools
   -blood smear for schistocytes
   - consider NGT lavage
   -Ct abdomen / pelvis if stable
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis. INR is
   worsening to 3.4 this morning. Bilirubin slightly increased.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets downtrending
   - Consider US-guided paracentesis; obtain CT abd/pelvis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**5-1**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated
 UF 100-200 cc/hr, SBP>110 with goal to
   be slightly positive today.
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely)
   - serial labs to monitor coags and LFTs
   - monitor for infection and culture if spikes
   - f/u blood cultures, urine cultures
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   ..
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.
   - Repeat culture [**4-24**] also with yeast
   - Repeat UA and culture; if yeast persist, continue tx with fluconazole
   for 5 day course started [**4-25**]
   - f/u repeat culture from [**4-28**]
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-4-28**] 11:55 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-29 08:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver Failure, Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct drop to 13.5 this AM
   WBC up to 32
   24 Hour Events:
 BLOOD CULTURED - At [**2147-4-28**] 01:32 PM
   specs from HD cath and PICC sent
 URINE CULTURE - At [**2147-4-28**] 04:19 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2147-4-26**] 09:00 PM
   Vancomycin - [**2147-4-26**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2147-4-29**] 06:17 AM
   Metronidazole - [**2147-4-29**] 08:03 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-28**] 08:38 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-4-29**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 112 (80 - 122) bpm
   BP: 115/63(81) {83/51(61) - 132/73(90)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 101.5 kg
           Total In:
                                                                  4,722 mL
                                                                  2,723 mL
   PO:
           TF:
                                                                    577 mL
                                                                    215 mL
   IVF:
                                                                  3,152 mL
                                                                  1,100 mL
   Blood products:
                                                                    872 mL
                                                                  1,348 mL
   Total out:
                                                                  4,704 mL
                                                                  1,511 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                  1,212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 569 (569 - 607) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 139
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.44/33/154/19/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   4.7 g/dL
   63 K/uL
   171 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   135 mEq/L
   13.5 %
   32.2 K/uL
        [image002.jpg]
                             [**2147-4-28**]  02:59 AM
                             [**2147-4-28**]  03:25 AM
                             [**2147-4-28**]  09:48 AM
                             [**2147-4-28**]  03:04 PM
                             [**2147-4-28**]  03:39 PM
                             [**2147-4-28**]  05:03 PM
                             [**2147-4-28**]  10:24 PM
                             [**2147-4-29**]  03:43 AM
                             [**2147-4-29**]  04:00 AM
                             [**2147-4-29**]  04:47 AM
   WBC
   20.8
   34.7
   32.2
   Hct
   23.4
   13.9
   13.5
   Plt
   50
   66
   63
   63
   Cr
   2.0
   1.9
   1.2
   TCO2
   30
   25
   25
   25
   20
   23
   Glucose
   129
   123
   124
   184
   188
   171
   Other labs: PT / PTT / INR:29.5/67.8/2.9, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:73/132, Alk Phos / T Bili:192/18.0,
   Differential-Neuts:82.0 %, Band:4.0 %, Lymph:10.0 %, Mono:2.0 %,
   Eos:0.0 %, Fibrinogen:79 mg/dL, Lactic Acid:3.4 mmol/L, Albumin:3.3
   g/dL, LDH:256 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   44 yo woman with EtOH cirrhosis with hypotension likely due to septic
   shock, hepatic failure, liver failure, DIC with Hct drop
   HOTN/shock:  Cont vanc/zosyn/ctx/flagyl  -- WBC now elevated to 30s.
   Checking c. diff, blood cultures.  Recheck lactate.  Continue norepi.
   CT abd/pelvis today.
   Respiratory failure:  Continue current vent settings
   DIC/Anemia: Now s/p 2 pRBCs, cryo.  No evidence of GI bleed at the
   moment but will need to monitor closely.
   Cirrhosis: LFTs stable.  Cont lactulose.
   MS:  More awake but not following commands.  Prn propofol.
   CVVH:  Run even
   UTI:  on 5 day course of fluconazole
   Will continue to discuss with her family as prognosis appears to be
   increasingly poor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-4-28**] 11:55 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with family twice today (including boyfriend, ex-husband, children,
   and brother) to update them on the clinical situation.  CT scan abd
   showed large rectus sheath hematoma at least partially responsible for
   large Hct drop overnight last PM.  Pressor requiremtn has not gone up
   over the course of the day.  Hct has responded to pRBC transfusion.
   Has also received cryo, FFP, and platelets.
   Pt is critically ill.  Time spent 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2147-4-29**] 08:19 PM ------

2147-04-30 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2147-4-29**] 08:00 AM
   C-Diff
   [**2147-4-29**]:
   - Patient received total of 6 units pRBCs, ordered for 2 units FFP, 1
   unit cryoprecipitate.
   - CT abdomen/pelvis: diffuse colonic bowel wall thickening concerning
   for infectious source (c.diff), large left rectus sheath fluid
   collection appears to be blood, small bilateral pleural effusions,
   diffuse fat stranding throughout the mesentary.
   - Surgical c/s:
   Family meeting held on [**4-29**] at 1:30pm and 6pm.  At later meeting
   boyfriend, ex-husband, brother, and children were presents as was nurse
   and social worker.  Discussed diagnosis of DIC and rectus sheath
   hematoma.  Did not address overall changes in code status but laid
   foundation for further discussion in the future.  Family understands
   that patient is gravely ill.  All questions answered.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2147-4-30**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-4-30**] 01:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-29**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-4-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 81 (71 - 114) bpm
   BP: 134/74(90) {87/59(71) - 136/106(118)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 101.5 kg
             Total In:
                                                                  8,817 mL
                                                                    964 mL
   PO:
             TF:
                                                                    251 mL
   IVF:
                                                                  3,090 mL
                                                                    844 mL
   Blood products:
                                                                  5,296 mL
   Total out:
                                                                  6,335 mL
                                                                  2,541 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  2,482 mL
                                                                 -1,577 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (507 - 607) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/34/136/17/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 272
   Physical Examination
   General: intubated, jaundice, opens eyes spontaneously tracking but not
   following commands
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, distended, no facial grimace to palpation
   GU: +foley with brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Neuro: pupils 5 to 3 with light, intermittently moves both upper
   extremities spontaneously but not to command
   Labs / Radiology
   27 K/uL
   8.9 g/dL
   108 mg/dL
   1.7 mg/dL
   17 mEq/L
   4.4 mEq/L
   20 mg/dL
   108 mEq/L
   137 mEq/L
   24.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2147-4-29**]  04:47 AM
                             [**2147-4-29**]  09:26 AM
                             [**2147-4-29**]  09:32 AM
                             [**2147-4-29**]  09:44 AM
                             [**2147-4-29**]  03:11 PM
                             [**2147-4-29**]  03:23 PM
                             [**2147-4-29**]  08:00 PM
                             [**2147-4-29**]  08:25 PM
                             [**2147-4-30**]  01:46 AM
                             [**2147-4-30**]  02:04 AM
   WBC
   32.2
   28.2
   14.4
   12.0
   12.2
   Hct
   13.5
   17.5
   24.6
   22.9
   24.1
   Plt
   63
   41
   19
   24
   27
   Cr
   1.4
   1.4
   1.7
   1.7
   TCO2
   22
   23
   23
   22
   Glucose
   188
   146
   140
   108
   Other labs: PT / PTT / INR:18.2/36.9/1.6, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:70/130, Alk Phos / T Bili:104/17.7,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:149 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:257 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:1.5
   mg/dL
   Micro:
   - UCx [**4-28**] with > 100,000 yeast
   - BCx all NGTD
   - C. diff negative
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure, consistent with
   hepatic encephalopathy.
   .
   #Hypotension:  Patient afebrile but with worsening difficulty weaning
   off levophed, leukocytosis, DIC concerning for sepsis.  Potential
   sources of infection include respiratory although stable on ventilator,
   C. Diff associated disease, SBP.
   -blood cultures
   -urine culture
   - trend lactate
   - CT abd/pelvis with IV contrast today
   - levophed to goal MAP >65  and wean as tolerated
   - broad spectrum antibiotics
 vancomycin, zosyn, and flagyl day 1
   [**2147-4-29**]
   - hold atenolol
   - can transduce CVP if PICC is a power PICC
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload (very little UOP and positive fluid balance of 4 L for
   LOS) and worsening mental status. Currently weaning PEEP (now at 10);
   last ABG within normal limits.
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Attempt PSV when tolerated; decrease PEEP as tolerated (will attempt
   to get PEEP under 10, check RSBI)
   - propofol sedation for patient comfort
   .
   # Thrombocytopenia/DIC
   low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. Total transfusions over
   last 2 days: 9 units pRBCs, 5 units cryo, 2 units platelets, 5 units
   FFP.
   -[**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   -DDAVP dosed at 0.3mcg/kg
   - antibiotics for sepsis
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices.  Recently menstruating but bleeding
   minimal.  Total transfusions over last 2 days: 9 units pRBCs, 5 units
   cryo, 2 units platelets, 5 units FFP. Patient with rectus sheath bleed
   on imaging.
   -serial HCT Q6hr
   -transfuse for HCT <24
   - guaiac stools
   -blood smear for schistocytes
   - consider NGT lavage
   -F/U final read CT abdomen/pelvis
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis. INR is
   worsening to 3.4 this morning. Bilirubin slightly increased.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets downtrending
   - Consider US-guided paracentesis; obtain CT abd/pelvis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**5-1**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated
 UF 100-200 cc/hr, SBP>110 with goal to
   be slightly positive today.
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely)
   - serial labs to monitor coags and LFTs
   - monitor for infection and culture if spikes
   - f/u blood cultures, urine cultures
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   ..
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Repeat cx also with yeast; complete 5 day fluconazole
   course and repeat UA.
   - Repeat culture [**4-24**] also with yeast
   - Continue tx with fluconazole for 5 day course started [**4-25**]
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-04-30 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, alcoholic hepatits, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct down to 21 this AM
   24 Hour Events:
 STOOL CULTURE - At [**2147-4-29**] 08:00 AM
   C-Diff
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-4-30**] 01:00 AM
   Metronidazole - [**2147-4-30**] 07:34 AM
   Vancomycin - [**2147-4-30**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-29**] 08:28 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-4-30**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 85 (68 - 99) bpm
   BP: 134/70(91) {82/51(63) - 136/106(118)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 101.5 kg
             Total In:
                                                                  8,799 mL
                                                                  1,833 mL
   PO:
             TF:
                                                                    251 mL
   IVF:
                                                                  3,073 mL
                                                                  1,653 mL
   Blood products:
                                                                  5,296 mL
   Total out:
                                                                  6,535 mL
                                                                  3,268 mL
   Urine:
                                                                      5 mL
                                                                      6 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  2,264 mL
                                                                 -1,435 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (507 - 607) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/35/125/17/-2
   Ve: 7.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended, firm over L rectus sheath hematoma
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   27 K/uL
   108 mg/dL
   1.7 mg/dL
   17 mEq/L
   4.2 mEq/L
   20 mg/dL
   108 mEq/L
   137 mEq/L
   21.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2147-4-29**]  09:32 AM
                             [**2147-4-29**]  09:44 AM
                             [**2147-4-29**]  03:11 PM
                             [**2147-4-29**]  03:23 PM
                             [**2147-4-29**]  08:00 PM
                             [**2147-4-29**]  08:25 PM
                             [**2147-4-30**]  01:46 AM
                             [**2147-4-30**]  02:04 AM
                             [**2147-4-30**]  08:01 AM
                             [**2147-4-30**]  08:08 AM
   WBC
   14.4
   12.0
   12.2
   Hct
   24.6
   22.9
   24.1
   21.6
   Plt
   19
   24
   27
   Cr
   1.4
   1.4
   1.7
   1.7
   TCO2
   22
   23
   23
   22
   22
   Glucose
   188
   146
   140
   108
   Other labs: PT / PTT / INR:18.2/36.9/1.6, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:70/130, Alk Phos / T Bili:104/17.7,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:149 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.3 g/dL, LDH:257 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   44 yo woman with EtOH cirrhosis with hypotension likely due to septic
   shock, hepatic failure, liver failure, DIC, large rectus sheath
   hematoma
   HOTN/shock:  Cont vanc/zosyn/ctx/flagyl  -- WBC back down today.
   Lactate down this AM.  Norepi dose down significantly from yesterday
   Rectus sheath hematoma: Hct drop again this AM - unclear if this is due
   to more bleeding into rectus sheath, alternate site of bleeding (i.e R
   thigh), or DI.  Getting 3 units pRBCs.  Will give more platelets and
   cryo as well.
   Respiratory failure:  Continue current vent settings.  She does have
   new LLL infiltrate today but oxygenating stably and already broadly
   covered with antibiotics.
   DIC/Anemia: Management as above
   Cirrhosis: LFTs stable.  Cont lactulose.
   CVVH:  Run even
   UTI:  on 5 day course of fluconazole - today is last day
   Will ontinue to meet with family to update on progress.  [**Name (NI) 882**] brother
   present on rounds.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 minutes
   Patient is critically ill

2147-05-01 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2147-4-30**] 01:11 PM
   - CT abdomen/pelvis: diffuse colonic bowel wall thickening concerning
   for infectious source (c.diff), large left rectus sheath fluid
   collection appears to be blood, small bilateral pleural effusions,
   diffuse fat stranding throughout the mesentary.
   - Surgical c/s: no intervention
   - Hct drop 24 -> 21 in morning so given another 3 units pRBCs, 2 units
   platelets, 1 unit FFP, vitamin K 5mg IV (per liver, should be IV).
   Current fibrinogen goal ~150 given active bleeding.
   - Re-started on levophed for hypotension
   - [**Doctor First Name 3**] recommended repeat CT abd/pelvis to evaluate for active
   extravasation amenable to IR. Given instability, held off for now.
   - Right thigh ecchymoses noted on exam this morning near femoral HD
   line; US limited but no hematoma or pseudoaneurysm seen.
   - Bruise on R hand/palm per nursing; request to investigate on
   rounds...reportedly able to move fingers when asked (lower dose of
   propofol at that time)
   - [**4-30**]: got 2 FFP, 2 plt, 3 pRBCs. Total to date during admission as
   recorded in metavision: 12 FFP, 14 pRBC, 7 cryo, 4 plt
   - liver recs [**4-30**]: PPI [**Hospital1 **] IV, hold off on EGD, 5 mg IV vitamin K X1
   - renal recs: will adjust dialysate for hypophosphatemia; use caution
   with vanc dosing
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-30**] 07:52 PM
   Metronidazole - [**2147-5-1**] 12:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-1**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-4-30**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-1**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 74 (67 - 87) bpm
   BP: 90/47(61) {77/47(61) - 156/98(122)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.6 kg (admission): 101.5 kg
             Total In:
                                                                  6,209 mL
                                                                  1,351 mL
   PO:
             TF:
                                                                    200 mL
                                                                    191 mL
   IVF:
                                                                  3,909 mL
                                                                  1,041 mL
   Blood products:
                                                                  1,860 mL
   Total out:
                                                                  6,640 mL
                                                                  2,742 mL
   Urine:
                                                                     11 mL
                                                                     10 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                   -431 mL
                                                                 -1,391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 582 (323 - 582) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.46/34/172/21/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General: intubated, jaundice, eyes flicker but do not open to palpation
   of abdomen but not to loud voice
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: JVP not elevated
   Lungs: Rhonchorous breath sounds bilaterally, no wheezes or rales
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  mildly firm especially in RUQ, distended, minimal facial
   response to palpation
   GU: +foley with minimal brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses
   Neuro: pupils 5 to 3 with light, not moving extremities
   Labs / Radiology
   45 K/uL
   9.7 g/dL
   107 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   25.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2147-4-30**]  08:01 AM
                             [**2147-4-30**]  08:08 AM
                             [**2147-4-30**]  10:12 AM
                             [**2147-4-30**]  04:16 PM
                             [**2147-4-30**]  04:37 PM
                             [**2147-4-30**]  08:58 PM
                             [**2147-4-30**]  09:08 PM
                             [**2147-5-1**]  01:21 AM
                             [**2147-5-1**]  01:30 AM
                             [**2147-5-1**]  02:12 AM
   WBC
   19.5
   15.4
   13.7
   Hct
   21.6
   28.3
   25.5
   25.9
   Plt
   41
   45
   45
   Cr
   1.8
   0.9
   1.2
   TCO2
   22
   22
   24
   24
   25
   Glucose
   119
   136
   128
   107
   Other labs: PT / PTT / INR:20.5/38.2/1.9, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:76/126, Alk Phos / T Bili:106/18.5,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:145 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.5 g/dL, LDH:257 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.7
   mg/dL
   Vanco 8.2 on [**4-30**] at 8am
   Micro:
   - UCx [**4-28**] with > 100,000 yeast
   - BCx all NGTD
   - C. diff negative
   [**4-30**] ultrasound of right groin - No evidence of pseudoaneurysm or
   hematoma in the right groin.
   [**4-30**] CXR - Increase in heart size, mediastinal caliber and pulmonary
   vascular plethora  suggest that the new bilateral opacifications,
   primarily in the lower lung zones with features of consolidation could
   be due to edema alone, but possibility of concurrent pneumonia or
   pulmonary hemorrhage should be considered.
   [**5-1**] CXR - pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   44yo F w/hx of alcoholism who presents with acute liver failure and now
   with mental status changes, worsening renal failure,
   consistent with hepatic encephalopathy.
   .
   # Thrombocytopenia/DIC
  low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. Total transfusions from
   [**Date range (1) 11993**]: 11 units pRBCs, 3 units cryo, 4 units platelets, 7 units
   FFP.
   - [**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   - DDAVP dosed at 0.3mcg/kg
   - antibiotics for possible sepsis
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices.  Recently menstruating but bleeding
   minimal. Patient with rectus sheath bleed on imaging.
   -serial HCT Q6hr
   -transfuse for HCT <25
   - guaiac stools
   - blood smear for schistocytes (negative)
   - consider NGT lavage
   .
   #Hypotension:  Patient afebrile but with difficulty weaning off
   levophed (not currently on), leukocytosis, DIC concerning for sepsis.
   Potential sources of infection include respiratory although stable on
   ventilator, C. Diff associated disease, SBP.
   - blood cultures - ngtd
   - urine culture
 growing yeast
   - trend lactate
 recent level 1.4 (stable)
   - CT abd/pelvis with IV contrast showed diffuse colonic bowel wall
   thickening concerning for infectious source (c.diff), large left rectus
   sheath fluid collection appears to be blood, small bilateral pleural
   effusions, diffuse fat stranding throughout the mesentary.
   - levophed to goal MAP >65  and wean as tolerated
   - broad spectrum antibiotics
 vancomycin, zosyn, and flagyl (day 1 -
   [**2147-4-29**])
   - recheck vancomycin level; dose for CrCl 30 on CRRT and follow levels
   closely per renal team
   - hold atenolol
   - can transduce CVP by power PICC
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload and worsening mental status. Currently weaning PEEP
   (now at 8).
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - PSV as tolerated; decrease PEEP as tolerated
   - propofol sedation for patient comfort
   .
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis. INR is
   worsening to 3.4 this morning. Bilirubin slightly increased.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets
   - Consider US-guided paracentesis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**5-1**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated
 UF 100-200 cc/hr, SBP>110 with goal to
   be even today.
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time.
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely); currently back on propofol
   for comfort in setting of agitation
   - serial labs to monitor coags and LFTs
   - monitor for infection and culture if spikes
   - f/u blood cultures, urine cultures
   - consider tap of abdomen under U/S if tappable pocket
   - prednisone started 4/12 per liver team
   ..
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Repeat cx also with yeast; complete 5 day fluconazole
   course and repeat UA.
   - Repeat culture [**4-24**] also with yeast
   - Continue tx with fluconazole for 5 day course started [**4-25**]; however
   repeat culture [**4-28**] still with yeast so will continue fluconazole from
   [**Date range (1) 11994**]
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-1**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-05-01 11:22:00 Physician Attending Progress Note
Chief Complaint: Spetic shock, Blood Loss Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct at 25 this AM
   3 additional pRBCs given yesterday but none so far today
   24 Hour Events:
 ULTRASOUND - At [**2147-4-30**] 01:11 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-4-30**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-1**] 06:00 AM
   Metronidazole - [**2147-5-1**] 08:06 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-1**] 09:03 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mkechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2147-5-1**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 78 (67 - 87) bpm
   BP: 112/104(109) {77/47(61) - 156/125(128)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.6 kg (admission): 101.5 kg
             Total In:
                                                                  6,209 mL
                                                                  2,479 mL
   PO:
             TF:
                                                                    200 mL
                                                                    554 mL
   IVF:
                                                                  3,909 mL
                                                                  1,745 mL
   Blood products:
                                                                  1,860 mL
   Total out:
                                                                  6,640 mL
                                                                  3,508 mL
   Urine:
                                                                     11 mL
                                                                     10 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                   -431 mL
                                                                 -1,029 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 626 (323 - 626) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 17 cmH2O
   SpO2: 92%
   ABG: 7.42/40/106/21/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: mild tenderness (pt grimacing)
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   43 K/uL
   95 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   21 mg/dL
   102 mEq/L
   134 mEq/L
   25.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2147-4-30**]  10:12 AM
                             [**2147-4-30**]  04:16 PM
                             [**2147-4-30**]  04:37 PM
                             [**2147-4-30**]  08:58 PM
                             [**2147-4-30**]  09:08 PM
                             [**2147-5-1**]  01:21 AM
                             [**2147-5-1**]  01:30 AM
                             [**2147-5-1**]  02:12 AM
                             [**2147-5-1**]  07:34 AM
                             [**2147-5-1**]  07:57 AM
   WBC
   19.5
   15.4
   13.7
   Hct
   28.3
   25.5
   25.9
   25.2
   Plt
   41
   45
   45
   43
   Cr
   1.8
   0.9
   1.2
   TCO2
   22
   24
   24
   25
   27
   Glucose
   119
   136
   128
   107
   95
   Other labs: PT / PTT / INR:21.9/40.0/2.0, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:76/126, Alk Phos / T Bili:106/18.5,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:134 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:257 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   44 yo woman with EtOH cirrhosis with hypotension likely due to septic
   shock, hepatic failure, liver failure, DIC, large rectus sheath
   hematoma
   HOTN/shock:  Cont vanc/zosyn/ctx/flagyl.  Levophed dose back down to
   0.02
   Rectus sheath hematoma: Hct has been stable for last checks but will
   cont to trend closely.
   Respiratory failure:  LLL infiltrate but vent requirement stable.  RSBI
   33.  Will do daily wake-up and try SBT.
   DIC/Anemia: Management as above
   Cirrhosis: LFTs stable.  Cont lactulose.  Will discuss with hepatology
   benefit of extending steroid course to 1 month
   CVVH:  Cont to run even
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**2-15**]) - [**2147-4-30**] 11:55 PM 25.[**Telephone/Fax (3) 11996**] mL/hour
   Nutren 2.0 (Full) - [**2147-5-1**] 12:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2147-05-02 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2147-5-1**] 04:28 PM
   RUE
   - Received 1 unit of Rh positive platelets (patient is Rh negative);
   per pharmacy recs received 1 dose of WhinRho (appropriate for women of
   childbearing age or those on transplant list)
   - RUE swelling, ecchymosis; US with no evidence of thrombus
   - Labs stable w/ HCT>25, fibrinogen >100, platelets >50
   [**Doctor First Name 3**] recs: CT abdomen with contrast if further evidence of bleeding to
   evaluate for possible active bleed amenable to angio
   Liver recs: Continue current mgmt
   Renal recs: Will monitor serum/ionized Ca for toxicity; continue
   current mgmt
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-1**] 08:17 PM
   Metronidazole - [**2147-5-2**] 12:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-2**] 05:41 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-1**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-2**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 94 (62 - 94) bpm
   BP: 123/69(89) {99/45(61) - 140/125(128)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 101.5 kg
             Total In:
                                                                  6,115 mL
                                                                  2,702 mL
   PO:
             TF:
                                                                    600 mL
                                                                    179 mL
   IVF:
                                                                  5,075 mL
                                                                  2,463 mL
   Blood products:
   Total out:
                                                                  7,961 mL
                                                                  2,432 mL
   Urine:
                                                                     38 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,846 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (337 - 572) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.44/40/108/24/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: intubated, jaundice, squeezes hand to command
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: JVP not elevated
   Lungs: Rhonchorous breath sounds bilaterally, no wheezes or rales
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Distended, minimal facial response to palpation, rectus
   hematoma less palpable
   GU: +foley with minimal brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses; ecchymoses on
   RUE
   Neuro: pupils 5 to 3 with light, not moving extremities
   Labs / Radiology
   57 K/uL
   9.8 g/dL
   133 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   23 mg/dL
   97 mEq/L
   134 mEq/L
   26.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2147-5-1**]  01:30 AM
                             [**2147-5-1**]  02:12 AM
                             [**2147-5-1**]  07:34 AM
                             [**2147-5-1**]  07:57 AM
                             [**2147-5-1**]  02:30 PM
                             [**2147-5-1**]  02:46 PM
                             [**2147-5-1**]  09:03 PM
                             [**2147-5-1**]  09:20 PM
                             [**2147-5-2**]  03:06 AM
                             [**2147-5-2**]  03:24 AM
   WBC
   17.0
   17.8
   Hct
   25.2
   25.8
   27.1
   26.7
   Plt
   43
   57
   48
   57
   Cr
   1.6
   1.6
   TCO2
   24
   25
   27
   27
   26
   28
   Glucose
   95
   120
   169
   133
   Other labs:
    PT / PTT / INR:23.2/43.0/2.2,
   ALT / AST:77/108, Alk Phos / T Bili:120/16.9
   Fibrinogen:107 mg/dL,
   Lactic Acid:1.5 mmol/L,
   Albumin:3.5 g/dL, LDH:257 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Micro:
   [**2147-4-29**] Bcx
 NGTD
   [**2147-4-29**] Bcx
 NGTD
   [**2147-4-29**] C. diff
 negative
   [**2147-5-2**] C. diff
 pending
   IMAGES:
   [**2147-5-1**] RUE ultrasound: No evidence for right upper extremity DVT.
   [**2147-5-1**] CXR: Lung volumes have improved substantially. Pulmonary edema
   has almost cleared, and heart size, upper limits of normal has
   improved. Questioned regions of pneumonia in both lower lungs are less
   radiodense but this may reflect resorption of edema and better aeration
   rather than real improvement. ET tube is in standard placement and a
   feeding tube ends barely in the upper stomach. No pneumothorax. Small
   bilateral pleural effusions are likely.
   [**2147-5-2**] CXR: Report pending (ETT appears very close to carina,
   worsening left lower opacity)
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and
   developed worsening renal failure and mental status changes consistent
   with hepatic encephalopathy, s/p intubation and started on CVVH. Course
   complicated by DIC and rectus sheath bleed requiring multiple
   transfusions of pRBCs, cryo, plts, FFP.
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload and worsening mental status. Currently weaning PEEP
   (now at 8). Goal of extubation in near future given patient now
   following commands.
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Daily wake ups, wean PEEP as tolerated
   - Propofol sedation for patient comfort
   - Continue SBT, monitor RSBIs, consider extubation today
   .
   # Thrombocytopenia/DIC
  low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. Platelets have been
   stable at > 50, fibrinogen trending down but > 100, INR now 2.2.
   Total transfusions from [**Date range (1) 11993**]: 11 units pRBCs, 4 units cryo, 4
   units platelets, 7 units FFP. Received 1 unit of Rh positive platelets
   so treated with WhinRho as patient is Rh negative.
   - [**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   - DDAVP dosed at 0.3mcg/kg
   - antibiotics for possible sepsis
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices. Patient with rectus sheath bleed on
   imaging.
   - serial HCT Q8hr
   - transfuse for HCT <25
   - guaiac stools
   - consider NGT lavage
   .
   #Hypotension/possible infection:  Patient afebrile but with difficulty
   weaning off levophed (currently low dose), leukocytosis, DIC concerning
   for sepsis.  Potential sources of infection include respiratory
   although stable on ventilator, C. Diff associated disease, SBP.
   - blood cultures - ngtd
   - urine culture
 growing yeast
   - trend lactate
 recent level 1.4 (stable)
   - CT abd/pelvis with IV contrast showed diffuse colonic bowel wall
   thickening concerning for infectious source (c.diff), large left rectus
   sheath fluid collection appears to be blood, small bilateral pleural
   effusions, diffuse fat stranding throughout mesentary.
   - levophed to goal MAP >65  and wean as tolerated
   - broad spectrum antibiotics
 vancomycin, zosyn, and flagyl (day 1 -
   [**2147-4-29**]) for empiric 8 day course for possible VAP (will obtain sputum
   culture to guide antibiotics)
   - recheck vancomycin level; dose for CrCl 30 on CRRT and follow levels
   closely per renal team
   - hold atenolol
   - can transduce CVP by power PICC if needed
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - Consider US-guided paracentesis
   - Continue prednisone
 will re-evaluate after 1 week of treatment
   ([**Date range (1) 11995**])
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - Continue CVVH as tolerated
 UF 100-200 cc/hr, SBP>110 with goal to
   be even today.
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time. When Propofol is lightened, patient is able to
   follow commands, nod head to Qs.
   - continue rifaximin and lactulose
   - daily wake ups
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely); currently back on propofol
   for comfort in setting of agitation at low dose
   - treatment for liver failure/DIC as above
   - treatment for possible infection/sepsis as above
   .
   # Leukocytosis. WBC count trending up to 17.8 today.
   - Pan-culture (sputum, blood, ? urine) if febrile
   - C. diff from today pending (negative from [**4-30**]); treating empirically
   - Trend CXR
   - Continue broad spectrum Abx
   .
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Repeat cxx also with yeast.
   - Fluconazole given for 5 day course started [**2055-4-24**]; however repeat
   culture on [**4-28**] still with yeast so will continue fluconazole from
   [**Date range (1) 11994**]
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-1**] 03:58 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-05-02 12:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo with ETOH hepatitis, respiratory failure, renal failure.  Had
   rectus sheath hemorrhage over weekend.  Hct has stabilized.
   24 Hour Events:
 ULTRASOUND - At [**2147-5-1**] 04:28 PM
   RUE
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-1**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-2**] 05:41 AM
   Metronidazole - [**2147-5-2**] 08:14 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-1**] 09:26 PM
   Other medications:
   CRRT: KCL, Ca, hep flush
   levophed
   prednisone 40mg
   propofol
   chlorhex
   lactulose
   vanco PO and IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-2**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 84 (62 - 94) bpm
   BP: 125/63(82) {99/45(61) - 140/99(114)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 101.5 kg
             Total In:
                                                                  6,115 mL
                                                                  4,093 mL
   PO:
             TF:
                                                                    600 mL
                                                                    291 mL
   IVF:
                                                                  5,075 mL
                                                                  3,622 mL
   Blood products:
   Total out:
                                                                  7,961 mL
                                                                  3,845 mL
   Urine:
                                                                     38 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,846 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (337 - 572) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.47/37/99.[**Numeric Identifier 433**]/24/3
   Ve: 12.8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, icteric
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, moves all four
   extremities on command
   Labs / Radiology
   10.2 g/dL
   68 K/uL
   114 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   23 mg/dL
   97 mEq/L
   134 mEq/L
   28.6 %
   18.6 K/uL
        [image002.jpg]
                             [**2147-5-1**]  07:34 AM
                             [**2147-5-1**]  07:57 AM
                             [**2147-5-1**]  02:30 PM
                             [**2147-5-1**]  02:46 PM
                             [**2147-5-1**]  09:03 PM
                             [**2147-5-1**]  09:20 PM
                             [**2147-5-2**]  03:06 AM
                             [**2147-5-2**]  03:24 AM
                             [**2147-5-2**]  07:41 AM
                             [**2147-5-2**]  10:34 AM
   WBC
   17.0
   17.8
   18.6
   Hct
   25.2
   25.8
   27.1
   26.7
   28.6
   Plt
   43
   57
   48
   57
   68
   Cr
   1.6
   1.6
   TCO2
   27
   27
   26
   28
   28
   Glucose
   95
   120
   169
   133
   114
   Other labs: PT / PTT / INR:23.5/40.3/2.2, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:77/108, Alk Phos / T Bili:120/16.9,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:112 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.5 g/dL, LDH:257 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Microbiology: C. diff. negative on [**4-29**]
   Assessment and Plan
   Respiratory failure:  Improved.  MS improved today.  Will do SBT
   today.  Check sputum
   rectus sheath hemorrhage:  continue to keep fibrinogen >100, and
   plts>50.  INR has been holding
   ETOH hepatitis:  liver function seems to be stable.  Continue
   prednisone, continue TFs
   HOTN:  levophed restarted.
   CVVH:  continue to keep even.
   sepsis:  unclear if she is infected, but can complete an empiric course
   of antibiotics.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-2**] 07:49 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Dialysis Catheter - [**2147-4-25**] 08:39 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2147-05-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2147-5-2**] 04:58 PM
   - SBT in late morning -> tolerated [**5-15**]; will maintain ETT until HD line
   in and diuresed further (lasix vs CVVH)
   - plan for temp HD line placement by IR [**5-3**]
   - Femoral line removed by renal fellow; held pressure X 20 min for
   bleeding; if rebleeds place in reverse T-[**Doctor Last Name **] and apply pressure
   - Recheck Hct, fibrinogen tonight
   - called to bedside around 1900 for marked bleeding from right groin
   site.  Estimated 150-200ml of blood lost.  SICU resident held pressure
   for approximately 20-25 minutes. Pressure dressing applied.  Ordered
   for 2 units FFP, 1 unit pRBCs, 1 unit platelets, and DDAVP.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-1**] 08:17 PM
   Metronidazole - [**2147-5-3**] 12:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-3**] 06:07 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-2**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-3**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.1
   HR: 84 (75 - 106) bpm
   BP: 92/57(69) {92/51(67) - 144/113(115)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 101.5 kg
             Total In:
                                                                  7,192 mL
                                                                    603 mL
   PO:
             TF:
                                                                    600 mL
                                                                    170 mL
   IVF:
                                                                  4,753 mL
                                                                    433 mL
   Blood products:
                                                                  1,539 mL
   Total out:
                                                                  4,979 mL
                                                                    420 mL
   Urine:
                                                                     58 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,213 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (422 - 551) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.45/40/84.[**Numeric Identifier 1132**]/26/3
   Ve: 9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General: intubated, jaundice, squeezes hand to command
   HEENT: Significant scleral icterus, MMM, OP clear
   Neck: JVP not elevated
   Lungs: Rhonchorous breath sounds bilaterally, no wheezes or rales
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Distended, minimal facial response to palpation, rectus
   hematoma less palpable
   GU: +foley with minimal brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally, 2+ pulses; ecchymoses on
   RUE, oozing/ecchymoses at right groin site
   Neuro: pupils 5 to 3 with light, not moving extremities
   Labs / Radiology
   80 K/uL
   9.9 g/dL
   109 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   36 mg/dL
   97 mEq/L
   135 mEq/L
   27.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2147-5-1**]  09:20 PM
                             [**2147-5-2**]  03:06 AM
                             [**2147-5-2**]  03:24 AM
                             [**2147-5-2**]  07:41 AM
                             [**2147-5-2**]  10:34 AM
                             [**2147-5-2**]  02:14 PM
                             [**2147-5-2**]  02:41 PM
                             [**2147-5-2**]  07:40 PM
                             [**2147-5-3**]  03:21 AM
                             [**2147-5-3**]  03:42 AM
   WBC
   17.8
   18.6
   11.0
   14.5
   Hct
   26.7
   28.6
   26.6
   25.5
   27.9
   Plt
   57
   68
   52
   80
   Cr
   1.6
   1.5
   2.0
   2.6
   TCO2
   26
   28
   28
   29
   29
   Glucose
   169
   133
   114
   113
   110
   112
   109
   Other labs:
   PT / PTT / INR:20.6/38.8/1.9,
   ALT / AST:73/101, Alk Phos / T Bili:111/16.6
   Fibrinogen:129 mg/dL,
   Lactic Acid:1.3 mmol/L, ([**2147-5-2**] afternoon)
   Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Micro:
   [**2147-5-2**] Stool negative for C. difficile (2^nd negative)
   [**2147-5-2**] Sputum poor quality specimen, negative gram stain
   [**2147-4-29**] Blood culture x 2 NGTD
   [**2147-4-28**] Blood culture x 2 NGTD
   Images:
   CXR [**2147-5-2**]: The endotracheal tube now terminates 2 cm above the
   carina. A feeding tube terminates in the proximal stomach. The
   cardiomediastinal contours are unchanged. Bibasilar parenchymal
   opacities and mild retrocardiac opacify are unchanged. Low lung volumes
   are stable. There is no evidence of pneumothorax or large pleural
   effusions.
   CXR [**2147-5-3**]: Report pending
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and
   developed worsening renal failure and mental status changes consistent
   with hepatic encephalopathy, s/p intubation and started on CVVH. Course
   complicated by DIC and rectus sheath bleed requiring multiple
   transfusions of pRBCs, cryo, plts, FFP.
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload and worsening mental status. Currently weaning PEEP
   (now at 5). Goal of extubation in near future given patient now
   following commands (will attempt SBT after new HD line placed)
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Daily wake ups, wean PEEP as tolerated
   - Propofol sedation for patient comfort
   - Continue SBT, monitor RSBIs, consider extubation today after HD line
   in place
   .
   # Thrombocytopenia/DIC
  low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. Platelets have been
   stable at > 50, fibrinogen trending down but > 100, INR now 2.2.
   Total transfusions since [**4-29**]: 12 units pRBCs, 4 units cryo, 5 units
   platelets, 9 units FFP. Received 1 unit of Rh positive platelets so
   treated with WhinRho as patient is Rh negative.
   - [**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   - DDAVP yesterday dosed at 0.3mcg/kg
   - Antibiotics for possible sepsis
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices. Patient with rectus sheath bleed on
   imaging. Had bleeding from groin site yesterday PM after HD line
   removed.
   - serial HCT [**Hospital1 **]
   - transfuse for HCT <25
   - guaiac stools
   - consider NGT lavage
   .
   #Hypotension/possible infection:  Patient afebrile but with difficulty
   weaning off levophed (currently low dose), leukocytosis, DIC concerning
   for sepsis.  Potential sources of infection include respiratory
   although stable on ventilator, C. Diff associated disease, SBP.
   - blood cultures - NGTD
   - urine culture
 grew yeast, treated with fluconazole
   - trend lactate
 recent level 1.3 (stable)
   - check sputum culture
   - CT abd/pelvis with IV contrast showed diffuse colonic bowel wall
   thickening concerning for infectious source (c.diff), large left rectus
   sheath fluid collection appears to be blood, small bilateral pleural
   effusions, diffuse fat stranding throughout mesentary.
   - broad spectrum antibiotics
 vancomycin, zosyn (day 1 - [**2147-4-29**]) for
   empiric 8 day course for possible VAP (will obtain sputum culture to
   guide antibiotics)
   - d/c PO vancomycin and IV flagyl as c.diff negative x2 and d/c c.diff
   precautions
   - hold atenolol
   - can transduce CVP by power PICC if needed
   - Currently off of levophed since [**2147-5-2**] (goal MAP > 65)
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - Consider US-guided paracentesis
   - Continue prednisone for presumed 28-day course
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - HD catheter placed by renal service [**4-25**]
   - will discuss with renal plans for CVVH vs HD
   - recheck vancomycin level; dose for CrCl 30 on CRRT and follow levels
   closely per renal team
   .
   #. Mental Status Changes: Likely due to hepatic encephalopathy, though
   differential also includes medication effect from ativan or active
   infection. Fulminant hepatic failure is likely given her history of
   alcoholism, acute liver failure and now encephalopathy. Initial
   discriminant function 137.  Per liver team, prognosis is poor given the
   trend in her LFTs and coags; however, these values appear ~stable or
   improving at this time. When Propofol is lightened, patient is able to
   follow commands, nod head to Qs.
   - continue rifaximin and lactulose
   - daily wake ups
   - discontinued propofol [**4-27**] and will continue to monitor mental status
   (propofol is fat-soluble and thus has large volume of distribution; may
   take several days to excrete completely); currently back on propofol
   for comfort in setting of agitation at low dose
   - treatment for liver failure/DIC as above
   - treatment for possible infection/sepsis as above
   .
   # Leukocytosis. WBC count trended up to 17.8 today, now down to 14.
   C. Diff negative x2.
   - Pan-culture (sputum, blood, ? urine) if febrile
   - Trend CXR
   - Continue vanc and zosyn for HCAP but D/C PO vanc and IV flagyl for
   empiric coverage of C.difficile
   .
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Repeat cxx also with yeast.
   - Fluconazole given for 5 day course started [**2055-4-24**]
   - Patient no longer making urine; if UOP resumes, would recheck UA/UCx
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
 will likely require
   family meeting to discuss clinical status/goals of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-2**] 11:40 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-05-03 12:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with ETOH hepatitis, respiratory failure, renal failure.
   Had some bleeding from line site after removal yesterday.
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2147-5-2**] 04:58 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-3**] 06:07 AM
   Metronidazole - [**2147-5-3**] 07:50 AM
   Vancomycin - [**2147-5-3**] 07:50 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-2**] 08:32 PM
   Other medications:
   protonix
   propofol
   chlorhexidine
   SSI
   prednisone 40mg
   neutraphos
   lactulose
   rifaxamin
   folate
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-3**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 80 (66 - 106) bpm
   BP: 117/55(72) {92/50(67) - 138/113(115)} mmHg
   RR: 13 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 101.5 kg
             Total In:
                                                                  7,192 mL
                                                                  1,123 mL
   PO:
             TF:
                                                                    600 mL
                                                                    208 mL
   IVF:
                                                                  4,753 mL
                                                                    915 mL
   Blood products:
                                                                  1,539 mL
   Total out:
                                                                  4,979 mL
                                                                    447 mL
   Urine:
                                                                     58 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,213 mL
                                                                    676 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (422 - 559) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.45/40/84.[**Numeric Identifier 1132**]/26/3
   Ve: 9.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   80 K/uL
   109 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   36 mg/dL
   97 mEq/L
   135 mEq/L
   27.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2147-5-1**]  09:20 PM
                             [**2147-5-2**]  03:06 AM
                             [**2147-5-2**]  03:24 AM
                             [**2147-5-2**]  07:41 AM
                             [**2147-5-2**]  10:34 AM
                             [**2147-5-2**]  02:14 PM
                             [**2147-5-2**]  02:41 PM
                             [**2147-5-2**]  07:40 PM
                             [**2147-5-3**]  03:21 AM
                             [**2147-5-3**]  03:42 AM
   WBC
   17.8
   18.6
   11.0
   14.5
   Hct
   26.7
   28.6
   26.6
   25.5
   27.9
   Plt
   57
   68
   52
   80
   Cr
   1.6
   1.5
   2.0
   2.6
   TCO2
   26
   28
   28
   29
   29
   Glucose
   169
   133
   114
   113
   110
   112
   109
   Other labs: PT / PTT / INR:20.6/38.8/1.9, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:73/101, Alk Phos / T Bili:111/16.6,
   Amylase / Lipase:/40, Differential-Neuts:70.0 %, Band:8.0 %, Lymph:10.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:129 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:257 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  Will try and wake up and do a SBT.
   Renal failure:  will discuss with renal about further CVVH.  Received
   new HD catheter today.
   hemorrhage:  no further evidence of bleeding.  Continue to monitor Hct,
   plts, INR, and fibrinogen
   Shock: has done well off pressors.
   PNA:  continue vanco/zosyn for empiric 8 day course given CXR
   inflitrates and overall improvement.  Can stop flagyl and PO vanco as
   C. diff is negative.
   Encephalophathy:  had improved MS today before being sedated for
   procedure.
   cirrhosis:  continue lactulose and rifaxamin
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-3**] 12:02 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Dialysis Catheter - [**2147-5-3**] 12:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2147-05-04 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2147-5-3**] 12:05 PM
   - Liver: cont. steroids (may be help w/ t-bili) for 28 day course per
   liver
   - HD line placed by IR, renal rec re-start CVVH to remove volume
   - D/C PO vanc and IV flagyl as C.Diff negative x2
   - SBT trial -> patient looked good, but ABG showed PaO2 of 63, so kept
   intubated; will aim for net negative with CVVH and re-try tomorrow
   - Received 5 mg PO vitamin K
   - Concern by IR for ETT too high so got CXR; attending thought it
   looked OK so no intervention
   . Renal recs [**5-4**]
 restarted CVVH [**5-3**] with reasonable UF; would
   continue to attempt UF up to 300-400 cc/hr if BP tolerate; remains
   volume overloaded. Continue citrate. Zosyn at current dose, vanc by
   levels.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-5-3**] 07:50 AM
   Metronidazole - [**2147-5-3**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-4**] 06:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2147-5-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 86 (66 - 106) bpm
   BP: 101/49(64) {89/39(54) - 138/85(107)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 101.5 kg
             Total In:
                                                                  3,959 mL
                                                                  2,540 mL
   PO:
             TF:
                                                                    500 mL
                                                                    180 mL
   IVF:
                                                                  3,278 mL
                                                                  2,310 mL
   Blood products:
   Total out:
                                                                  4,633 mL
                                                                  2,886 mL
   Urine:
                                                                    104 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -674 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 599 (502 - 1,274) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.47/35/101/22/1
   Ve: 8.3 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: intubated, jaundice, squeezes hand to command
   HEENT: Significant scleral icterus, MM dry, OP clear
   Neck: JVP not elevated
   Lungs: Rhonchorous breath sounds bilaterally, no wheezes or rales
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Distended, minimal facial response to palpation, rectus
   hematoma not palpable
   GU: +foley with minimal brown sediment
   Ext: warm, 3+ edema to abdomen bilaterally; ecchymoses on RUE, no blood
   present on dressing at right groin site
   Labs / Radiology
   83 K/uL
   10.1 g/dL
   113 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   35 mg/dL
   97 mEq/L
   136 mEq/L
   27.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2147-5-2**]  02:14 PM
                             [**2147-5-2**]  02:41 PM
                             [**2147-5-2**]  07:40 PM
                             [**2147-5-3**]  03:21 AM
                             [**2147-5-3**]  03:42 AM
                             [**2147-5-3**]  02:14 PM
                             [**2147-5-3**]  02:29 PM
                             [**2147-5-3**]  08:19 PM
                             [**2147-5-4**]  03:57 AM
                             [**2147-5-4**]  04:09 AM
   WBC
   11.0
   14.5
   14.3
   17.7
   Hct
   26.6
   25.5
   27.9
   28.2
   27.9
   Plt
   52
   80
   77
   83
   Cr
   1.5
   2.0
   2.6
   3.0
   2.4
   TCO2
   29
   29
   26
   24
   26
   Glucose
   113
   110
   112
   109
   133
   135
   113
   Other labs: PT / PTT / INR:23.5/39.2/2.2, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:72/83, Alk Phos / T Bili:114/16.4,
   Amylase / Lipase:/40, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:146 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:272 IU/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL. FDP 80-160
   [**5-2**] Vanc trough 24.6 at 7:30am (last dose 4/21 at 7am; [**5-1**] at 8pm)
   Red cell morphology: Anisocy Poiklo Macrocy Microcy Ovalocy Schisto
   (occ) Burr Tear Dr
   [**Last Name (STitle) **]:
   [**2147-5-3**] Sputum culture - <10 PMNs and <10 epithelial cells/100X field;
   no organisms; culture pending
   [**2147-5-2**] Stool negative for C. difficile (2^nd negative)
   [**2147-5-2**] Sputum quality cannot be assessed, negative gram stain;
   Commensal Respiratory Flora Absent. YEAST SPARSE GROWTH.
   [**2147-4-29**] Blood culture x 2 NGTD
   [**2147-4-28**] Blood culture x 2 NGTD
   [**5-3**] CXR wet read - ET TUBE TERMINATING 2.4 CM ABOVE CARINA. LOW LUNG
   VOLUMES. RT IJ PLACEMENT
   WITH TIP IN RT ATRIUM, UNCHANGED FROM IR PLACEMENT EARLIER THE SAME
   DAY. MILD
   EDEMA AND SCATTERED PARENCYMAL OPACITIES.
   [**5-4**] CXR
 read pending
   Assessment and Plan
   44yo F w/hx of alcoholism who presents with acute liver failure and
   developed worsening renal failure and mental status changes consistent
   with hepatic encephalopathy, s/p intubation and started on CVVH. Course
   complicated by DIC and rectus sheath bleed requiring multiple
   transfusions of pRBCs, cryo, plts, FFP.
   .
   #. Respiratory Failure
 patient intubated and on mechanical
   ventilation due to hypoxia, worsening mental status.  Likely due to
   volume overload. Currently weaning PEEP (at 5 on [**5-4**]). Goal of
   extubation in near future given patient now following commands (will
   attempt SBT today [**5-4**])
   - Trend ABGs (A-line in place) [**Hospital1 **]
   - Daily wake ups, wean PEEP as tolerated
   - Propofol sedation for patient comfort
   - Continue SBT, monitor RSBIs, consider extubation today
   - Goal neg 100cc/h today via CVVH
   .
   # Thrombocytopenia/DIC
  low platelets with increased thrombin
   generation (decreased fibrinogen) and increased fibrinolysis (elevated
   FDP).  Likely, DIC although difficult to distinguish from coagulopathy
   associated with severe liver disease on CVVH. Platelets have been
   stable at > 50, fibrinogen trending down but > 100, INR now 2.2.
   Total transfusions since [**4-29**]: 12 units pRBCs, 4 units cryo, 5 units
   platelets, 9 units FFP. Received 1 unit of Rh positive platelets so
   treated with WhinRho as patient is Rh negative.
   - [**Hospital1 **] DIC labs
   - maintain platelet count >50K, fibrinogen >100
   - DDAVP given in setting of femoral line bleed [**5-2**]
   - Antibiotics for possible sepsis as below
   .
   #Anemia: Significant hematocrit drop from 24 to 14 in the setting of
   coagulopathy on prednisone concerning for active bleeding vs
   hemolysis/DIC. No history of GI bleeding. Unknown whether this patient
   has esophageal or gastric varices. Patient with rectus sheath bleed on
   imaging. Had bleeding from groin site [**5-2**] PM after HD line removed.
   - serial HCT [**Hospital1 **]
   - transfuse for HCT <25
   - guaiac stools
   - consider NGT lavage
   .
   #Hypotension/possible infection:  Patient afebrile but with difficulty
   weaning off levophed (currently off), leukocytosis, DIC concerning for
   sepsis.  Potential sources of infection include respiratory although
   stable on ventilator, C. Diff associated disease, SBP.
   - blood cultures - NGTD
   - urine culture
 grew yeast, treated with fluconazole
   - trend lactate
 [**5-4**] level 1.3 (stable)
   - sputum culture
 unclear quality of specimen; no commensals; sparse
   yeast
 consider getting [**Last Name (un) 206**]/spec and restarting antifungals
   - CT abd/pelvis with IV contrast showed diffuse colonic bowel wall
   thickening concerning for infectious source (c.diff), large left rectus
   sheath fluid collection appears to be blood, small bilateral pleural
   effusions, diffuse fat stranding throughout mesentary.
   - [**5-3**] discontinued PO vancomycin and IV flagyl as c.diff negative x2
   and d/c c.diff precautions
   - broad spectrum antibiotics
 vancomycin, zosyn (day 1 - [**2147-4-29**]) for
   empiric 8 day course (to end [**5-7**]) for possible VAP (will attempt to
   obtain sputum culture to guide antibiotics). Will redose vanc today.
   - hold atenolol
   - can transduce CVP by power PICC if needed
   - Currently off of levophed since [**2147-5-2**] (goal MAP > 65)
   .
   #. Liver Failure: Secondary to acute alcoholic hepatitis.
   - hepatitis serologies with no acute infection (HbsAb borderline, HBsAg
   neg; HAV IgG positive, HcAb Negative), [**Doctor First Name **] positive, anti-smooth muscle
   antibody positive. MELD score 45 based upon lab data from [**2147-4-24**] lab
   data.
   - monitor liver labs [**Hospital1 **]; FFP/DDAVP if actively bleeding
   - monitor DIC labs; platelets
   - continue lactulose, rifaximin
   - midodrine, octreotide discontinued given HRS unlikely
   - Consider US-guided paracentesis if more ascites appreciable
   - Continue prednisone for presumed 28-day course; day 1 = [**4-24**]
   - Continue TF with goal > [**2137**] calories/day (follow nutrition recs)
   .
   #. Acute Renal Failure: Likely ATN, less likely HRS.  Urine sodium is
   29.  Patient received IVF boluses and 1 unit of pRBCs with no
   improvement of renal failure.  Pt anuric at this time. [**Hospital3 **] confirms pt did NOT receive any recent dye/contrast. . Patient
   remains anuric without signs of renal recovery.
   - Appreciate renal consult recommendations
   - Femoral HD catheter placed by renal service [**4-25**]; removed [**5-2**]; new
   temp HD line placed [**5-3**]
   - will discuss with renal plans for CVVH vs HD
   - recheck vancomycin level; dose for CrCl 30 on CRRT and follow levels
   closely per renal team
   .
   #. Mental Status Changes: Improving; when Propofol is lightened,
   patient is able to follow commands, nod head to Qs.. Likely due to
   hepatic encephalopathy, though differential also includes medication
   effect from ativan or active infection. Fulminant hepatic failure is
   likely given her history of alcoholism, acute liver failure and now
   encephalopathy. Initial discriminant function 137.  Per liver team,
   prognosis is poor given the trend in her LFTs and coags; however, these
   values appear ~stable or improving at this time.
   - continue rifaximin and lactulose
   - daily wake ups
   - propofol only as needed for comfort
   - treatment for liver failure/DIC as above
   - treatment for possible infection/sepsis as above
   .
   # Leukocytosis. WBC increased; C. Diff negative x2.
   - Pan-culture (sputum, blood, ?urine) if febrile
   - Trend CXR
   - Continue vanc and zosyn for HCAP as above
   - Now off PO vanc and IV flagyl for empiric coverage of C.difficile
   .
   #. ?UTI. Initial U/A with yeast but also with many epi
s, culture
   growing yeast. Repeat UA still with yeast, culture pending.
   - Treat UTI today for empiric course with renally-adjusted fluconazole
   (better urinary penetration than micafungin); Clcr
50 mL/minute (no
   dialysis): Administer 50% of recommended dose or administer every 48
   hours. Hemodialysis: 50% is removed by hemodialysis; administer 100% of
   daily dose (according to indication) after each dialysis treatment.
   Given possible hepatotoxicity, will treat with short 3 day course and
   discontinue if elevation in LFTs noted, then repeat UA to guide further
   treatment.  Repeat cxx also with yeast.
   - Fluconazole given for 5 day course [**2055-4-24**]
   - Patient no longer making urine; if UOP resumes, would recheck UA/UCx
   .
   # FEN: Hold off on IVF in setting of volume overload, replete
   electrolytes, OG tube placed [**4-26**] for TF
   # Prophylaxis: pneumoboots
   # Access: R arm power PICC, A-line, HD catheter [**5-3**]
   # Communication: Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 11865**]
   # Code:  Full; no formal HCP - code status discussed with Brother [**Name (NI) **]
   and boyfriend [**Name (NI) **]; will readdress today
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-4**] 04:01 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Dialysis Catheter - [**2147-5-3**] 12:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-05-04 11:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failre
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women with ETOH hepatitis, respiratory failure, renal failure.
   Stable overnight.  Restarted CVVH
   24 Hour Events:
 DIALYSIS CATHETER - START [**2147-5-3**] 12:05 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2147-5-3**] 07:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-5-4**] 06:00 AM
   Vancomycin - [**2147-5-4**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-5-3**] 08:00 PM
   Other medications:
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-5-4**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 103 (77 - 106) bpm
   BP: 91/81(86) {67/39(54) - 138/87(107)} mmHg
   RR: 23 (10 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 101.5 kg
             Total In:
                                                                  3,959 mL
                                                                  3,949 mL
   PO:
             TF:
                                                                    500 mL
                                                                    275 mL
   IVF:
                                                                  3,278 mL
                                                                  3,555 mL
   Blood products:
   Total out:
                                                                  4,633 mL
                                                                  4,903 mL
   Urine:
                                                                    104 mL
                                                                     10 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                   -674 mL
                                                                   -954 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 1,274) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.49/36/67/22/4
   Ve: 12.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   83 K/uL
   113 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   35 mg/dL
   97 mEq/L
   136 mEq/L
   27.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2147-5-2**]  02:41 PM
                             [**2147-5-2**]  07:40 PM
                             [**2147-5-3**]  03:21 AM
                             [**2147-5-3**]  03:42 AM
                             [**2147-5-3**]  02:14 PM
                             [**2147-5-3**]  02:29 PM
                             [**2147-5-3**]  08:19 PM
                             [**2147-5-4**]  03:57 AM
                             [**2147-5-4**]  04:09 AM
                             [**2147-5-4**]  10:12 AM
   WBC
   11.0
   14.5
   14.3
   17.7
   Hct
   25.5
   27.9
   28.2
   27.9
   Plt
   52
   80
   77
   83
   Cr
   2.0
   2.6
   3.0
   2.4
   TCO2
   29
   29
   26
   24
   26
   28
   Glucose
   110
   112
   109
   133
   135
   113
   Other labs: PT / PTT / INR:23.5/39.2/2.2, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:72/83, Alk Phos / T Bili:114/16.4,
   Amylase / Lipase:/40, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:146 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:272 IU/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  will repeat SBT today.
   Fluid overload/renal failure:  Still with significant LE swelling.
   Will continue to remove fluid with stable BP.
   ETOH hepaitisis/cirrhosis:  stable bili and coags.
   VAP:  vanco/zosyn for total 8 day course.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2147-5-4**] 04:01 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2147-4-23**] 03:08 PM
   Arterial Line - [**2147-4-26**] 05:00 PM
   Dialysis Catheter - [**2147-5-3**] 12:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill